US05356916
There was dissolved 3.574 g of p-cyanophenol in 30 ml of N,N-dimethylformamide, followed by addition of 4.364 g of a 90% potassium t-butoxide and stirring at room temperature for 30 minutes. Then 6.570 g of 1-bromo-3-phenylpropane was dropwise added to the solution and the mixture was stirred for 20 hours. The reaction solution was added to ice water, the resulting precipitates were filtered off, washed with water and recrystallized from a mixture of ethanol and n-hexane to give 5.176 g (yield 72.7%) of 4-(3-phenylpropoxy)benzonitrile.

reactant | p-cyanophenol | 3.574 g | C(#N)C1=CC=C(C=C1)O | C7H5NO
reactant | potassium t-butoxide | CC(C)([O-])C.[K+]
reactant | 1-bromo-3-phenylpropane | 6.570 g | BrCCCC1=CC=CC=C1 | C9H11Br
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 4-(3-phenylpropoxy)benzonitrile | 5.176 g, yield 72.7% | C1(=CC=CC=C1)CCCOC1=CC=C(C#N)C=C1 | C16H15NO
